US07786132B2
(i) Methyl 7-chlorobenzo[b]thiophene-2-carboxylate
3-Chloro-2-fluorobenzaldehyde(1 g, 6.3 mmol) was dissolved in DMSO (10 mL) and treated with methylthioglycolate, followed by diethylamine (0.58 mL, 6.3 mmol). The reaction was heated to 70° C. and stirred overnight. The reaction was allowed to cool down to room temperature and diluted with water (25 mL). The solid that precipitated out of solution was collected by filtration and washed well with water. The solid was then purified by flash chromatography using a gradient of 2 to 20% ethyl acetate in hexanes to afford a white solid (0.8 g).

reactant | 3-Chloro-2-fluorobenzaldehyde | 6.3 mmol, 1 g | ClC=1C(=C(C=O)C=CC1)F | C7H4ClFO
reactant | methylthioglycolate | CC(C(=O)[O-])S
reactant | diethylamine | 6.3 mmol, 0.58 mL | C(C)NCC | C4H11N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 25 mL | O | H2O
product | Methyl 7-chlorobenzo[b]thiophene-2-carboxylate | 0.8 g | ClC1=CC=CC2=C1SC(=C2)C(=O)OC | C10H7ClO2S
